US04187315
To a solution of cyclooctylamine (12.7 g., 0.10 mole) in chloroform (50 ml.) at 10°-20° C. is added dropwise ethyloxalyl chloride (6.83 g., 0.05 mole) in chloroform (50 ml.) over a period of 30 minutes. After stirring for 2 additional hours at 10° C., the mixture is washed with H2O (4×50 ml.), and the organic layer dried over Na2SO4. After filtration and evaporation an oil is obtained (11.3 g.). To the crude ethyl N-cyclooctyloxamate dissolved in ethanol (27 ml.) is added sodium (1.15 g., 0.05 mole) dissolved in absolute ethanol (35 ml.) and the mixture is stirred overnight. Following evaporation, the residue is dissolved in H2O (41 ml.) with heating, and the solution filtered while hot. The filtrate is acidified with 6 N HCl, and the resulting slurry cooled at ice temperature. The solid obtained by filtration is recrystallized from boiling H2O (100 ml.) to give N-cyclooctyloxamic acid, m.p. 115°-116° C.

reactant | cyclooctylamine | 0.10 mole, 12.7 g | C1(CCCCCCC1)N | C8H17N
reactant | ethyloxalyl chloride | 0.05 mole, 6.83 g | CCC(=O)C(=O)Cl | C4H5ClO2
reactant | ethyl N-cyclooctyloxamate | C1(CCCCCCC1)NC(C(=O)OCC)=O | C12H21NO3
reactant | sodium | 0.05 mole, 1.15 g | [Na] | Na
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 27 ml | C(C)O | C2H6O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | N-cyclooctyloxamic acid | C1(CCCCCCC1)NC(C(=O)O)=O | C10H17NO3
